US08497264B2
In a microwave vial, diisopropyl 5-(prop-1-ynyl)pyridin-3-ylboronate (0.109 g, 0.443 mmol), (S)-5-(tert-butoxycarbonylamino)-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate (0.218 g, 0.355 mmol), and Pd(PPh3)4 (0.041 g, 0.035 mmol) were taken up in DMF (3.7 mL). Aqueous sodium carbonate (1.0 M, 1.064 mL, 1.064 mmol) was added. Argon gas was blown through the vessel, which was sealed and heated in an 85° C. oil bath for 1.5 h. The reaction was concentrated. The residue was taken up in water (10 mL) and the aqueous phase was extracted with 5% MeOH/DCM (3×20 mL). The organics were combined, washed with dilute brine (5 mL), dried over sodium sulfate and concentrated. The residue was transferred to a microwave vial in DCM (2 mL), and TFA (0.683 mL, 8.87 mmol) was added. The vessel was sealed and heated in a 50° C. oil bath for 1.5 h. The reaction was concentrated, and the residue was neutralized with 0.5 M aqueous Na2CO3 (15 mL). The aqueous phase was extracted with 5% MeOH/DCM (3×20 mL). The organics were combined, washed with dilute brine (6 mL), dried over sodium sulfate and concentrated. The residue was purified by chromatography (7% MeOH/DCM) to afford (S)-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-7′-(5-(prop-1-ynyl)pyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (98 mg, 0.203 mmol).

reactant | diisopropyl 5-(prop-1-ynyl)pyridin-3-ylboronate | 0.443 mmol, 0.109 g | C(#CC)C=1C=C(C=NC1)B(OC(C)C)OC(C)C | C14H20BNO2
reactant | (S)-5-(tert-butoxycarbonylamino)-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate | 0.355 mmol, 0.218 g | FC(S(=O)(=O)OC1=CC=C2OC=3C(=CC(=CC3[C@@]3(C2=C1)COCC(=N3)NC(=O)OC(C)(C)C)C=3COCCC3)F)(F)F | C27H26F4N2O8S
reactant | sodium carbonate | 1.064 mmol, 1.0 M, 1.064 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | TFA | 8.87 mmol, 0.683 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 3.7 mL | CN(C)C=O | C3H7NO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.035 mmol, 0.041 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-7′-(5-(prop-1-ynyl)pyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 0.203 mmol, 98 mg | O1CC(=CCC1)C1=CC=2[C@@]3(C4=CC(=CC=C4OC2C(=C1)F)C=1C=NC=C(C1)C#CC)COCC(=N3)N | C29H24FN3O3
